US08071779B2
N-(1-Benzylazepan-4-yl)isoquinolin-5-amine, Compound 2.013
The title compound was prepared by reaction of isoquinolin-5-amine with tert-butyl 4-oxoazepane-1-carboxylate using the method of Example 3, followed by deprotection using the method of Example 4 and reaction with benzaldehyde following the method of Example 8.

reactant | isoquinolin-5-amine | C1=NC=CC=2C(=CC=CC12)N | C9H8N2
reactant | tert-butyl 4-oxoazepane-1-carboxylate | O=C1CCN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | N-(1-Benzylazepan-4-yl)isoquinolin-5-amine | C(C1=CC=CC=C1)N1CCC(CCC1)NC=1C=2C=CN=CC2C=CC1 | C22H25N3
